US04803218
N-(5-Nitro-1H-indol-3-yl)ethyl-2,2,2-trifluoroacetamide:
To a suspension of 24.09 g (0.118 mole) of 5-nitrotryptamine in 600 ml of dry methylene chloride was added 36.1 g (0.172 mole) of trifluoroacetic anhydride in 50 ml of dry CH2Cl2. The reation was stirred at RT 2 hours and then concentrated in vacuo to give a yellow-brown solid which on recrystallization from 500 ml of EtOH afforded 23.68 g (67% yield) of desired product: m.p. 197-199. An analytical sample was obtained via recrystallization from CH2Cl2 /EtOH: m.p. 199.5°-201° ; nmr (d6 -DMSO) δ(TMS) 11.63 (1, S, indole--NH), 9.50 (1, broad S, --NHCOCF3), 8.60 (1, d, J4-6 =2Hz, H-4), 8.03 (1, d of d, J4-6 =2Hz, J6-7 =8Hz, H-6), 7.55 (1, d, J6-7 = 8Hz, H-7), 7.41 (1, S, H-2), 3.50 (2, M, --CH2 --) and 3.02 ppm (2, M, --CH2 --); CI-MS, m/e 301. Anal. Calcd. for C12H10F3N3O3 : C, 47.84; H, 3.35; N, 13.95. Found: C, 47.88; H, 3.35; N, 13.83.

reactant | 5-nitrotryptamine | 0.118 mole, 24.09 g | [N+](=O)([O-])C1=CC=C2NC=C(CCN)C2=C1 | C10H11N3O2
reactant | trifluoroacetic anhydride | 0.172 mole, 36.1 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 600 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(5-Nitro-1H-indol-3-yl)ethyl-2,2,2-trifluoroacetamide | 23.68 g, 67% yield | [N+](=O)([O-])C=1C=C2C(=CNC2=CC1)CCNC(C(F)(F)F)=O | C12H10F3N3O3
